US07205326B2
A solution of 1-but-3-ynyl-1H-[1,2,3]triazole (0.76 g, 6.3 mmol) in anhydrous THF (50 ml) was treated with 9-BBN (0.5 M in THF, 27.6 ml, 13.8 mmol) at 0° C. and stirred for 2 h. This mixture was added to a solution of (4-iodo-phenyl)-carbamic acid tert-butyl ester (2 g, 6.3 mmol), [Pd(PPh3)2]Cl2 (0.51 g, 0.63 mmol) and aqueous potassium carbonate (3M, 6.3 ml, 18.8 mmol) in N,N-dimethyl formamide (50 ml) and stirred for 2 h at 70° C. After cooling to room temperature ethyl acetate (100 ml) was added and the solution extracted with water (2×50 ml). The organic layer was concentrated and the crude product purified by flash column chromatography (ethyl acetate/heptane 3:1) and washing with diethyl ether to yield [4-(4-[1,2,3]triazol-1-yl-but-1-enyl)-phenyl]-carbamic acid tert-butyl ester as beige solid (0.65 g, 33%).

reactant | 1-but-3-ynyl-1H-[1,2,3]triazole | 6.3 mmol, 0.76 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | 9-BBN | 13.8 mmol, 0.5 M, 27.6 ml | B1C2CCCC1CCC2 | C8H15B
reactant | (4-iodo-phenyl)-carbamic acid tert-butyl ester | 6.3 mmol, 2 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)I)=O | C11H14INO2
reactant | potassium carbonate | 18.8 mmol, 3M, 6.3 ml | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | N,N-dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | [4-(4-[1,2,3]triazol-1-yl-but-1-enyl)-phenyl]-carbamic acid tert-butyl ester | 0.65 g, 33% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=CCCN1N=NC=C1)=O | C17H22N4O2
